US08022062B2
4-(3,3-Dimethylbutoxy)-benzylamine:
Mix lithium aluminum hydride (1.0 g, 26.6 mmol) and anhydrous ethyl ether (70 mL) under nitrogen atmosphere. Stir and cool to 0° C. in an ice bath. Add dropwise a solution of 4-(3,3-dimethylbutoxy)-benzonitrile (1.8 g, 8.87 mmol) in anhydrous ethyl ether (20 mL). Stir for 2 h at 0° C., remove the ice bath and stir at ambient temperature for 18 h. Cool the reaction flask in an ice bath and add carefully dropwise and sequentially water (1 mL), 2N aqueous NaOH (1 mL), and water (2 mL). Stir for 30 min. filter, separate the organic layer, dry over Na2SO4 and concentrate in vacuo to obtain the title compound (1.62 g, 88%). MS (ES+) m/z: 191 M+H−NH3)+.

reactant | lithium aluminum hydride | 26.6 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(3,3-dimethylbutoxy)-benzonitrile | 8.87 mmol, 1.8 g | CC(CCOC1=CC=C(C#N)C=C1)(C)C | C13H17NO
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 70 mL | C(C)OCC | C4H10O
product | 4-(3,3-Dimethylbutoxy)-benzylamine | 1.62 g, 88% | CC(CCOC1=CC=C(CN)C=C1)(C)C | C13H21NO
